US07034039B2
A solution of tert-butyl[(4-(3-fluorophenyl)-6-hydroxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methylcarbamate (0.44 g, 1 mmol), 2-iodoacetamide (0.37 g, 2 mmol) and 1,8-diazabicyclo[5.4.0]-7-undecene (0.3 mL, 2 mmol) in N,N-dimethylacetamide (10 mL) was stirred at 70° C. for 10 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give tert-butyl[6-(2-amino-2-oxoethoxy)-4-(3-fluorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.21 g, 42.9%) as crystals.

reactant | (4-(3-fluorophenyl)-6-hydroxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methylcarbamate | 1 mmol, 0.44 g | FC=1C=C(C=CC1)C1=C(N(C(C2=CC=C(C=C12)O)=O)CC(C)C)CNC([O-])=O
reactant | 2-iodoacetamide | 2 mmol, 0.37 g | ICC(=O)N | C2H4INO
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 2 mmol, 0.3 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | water | O | H2O
reactant | N,N-dimethylacetamide | 10 mL | CN(C(C)=O)C | C4H9NO
product | tert-butyl[6-(2-amino-2-oxoethoxy)-4-(3-fluorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.21 g, 42.9% | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC(=CC=C1)F)OCC(=O)N)=O)CC(C)C)=O | C27H32FN3O5
